* FILE: MMI_TSBUFC.sp


* SPICE netlist for "MMI_TSBUFC" (generated by MMI_SUE4.2.1)

*.SUBCKT MMI_TSBUFC en enb in out 
M_0 out N2 vdd vdd p W='3.68*1u' L=lp_min ad='areap(3.68,sdd)' 
+ as='areap(3.68,sdd)' pd='perip(3.68,sdd)' ps='perip(3.68,sdd)'
M_1_1 out N1 gnd gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)'
M_2_1 N2 en vdd vdd p W='0.84*1u' L=lp_min ad='areap(0.84,sdd)' 
+ as='areap(0.84,sdd)' pd='perip(0.84,sdd)' ps='perip(0.84,sdd)'
M_3_1 N1 enb N2 vdd p W='0.84*1u' L=lp_min ad='areap(0.84,sdd)' 
+ as='areap(0.84,sdd)' pd='perip(0.84,sdd)' ps='perip(0.84,sdd)'
M_4_1 N2 en N1 gnd n W='0.42*1u' L=ln_min ad='arean(0.42,sdd)' 
+ as='arean(0.42,sdd)' pd='perin(0.42,sdd)' ps='perin(0.42,sdd)'
M_5_1 N1 enb gnd gnd n W='0.42*1u' L=ln_min ad='arean(0.42,sdd)' 
+ as='arean(0.42,sdd)' pd='perin(0.42,sdd)' ps='perin(0.42,sdd)'
M_6_1 N2 in vdd vdd p W='1.68*1u' L=lp_min ad='areap(1.68,sdd)' 
+ as='areap(1.68,sdd)' pd='perip(1.68,sdd)' ps='perip(1.68,sdd)'
M_7_1 N1 in gnd gnd n W='0.84*1u' L=ln_min ad='arean(0.84,sdd)' 
+ as='arean(0.84,sdd)' pd='perin(0.84,sdd)' ps='perin(0.84,sdd)'
*.ENDS	$ MMI_TSBUFC

